US07635684B2
4-{[4-(3-Chloropropoxy)-2-methylphenyl]methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole
To a solution of 4-[(4-hydroxy-2-methylphenyl)-methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (8.58 g), 1-bromo-3-chloropropane (2.85 mL) and tetra(n-butyl)ammonium bromide (1.86 g) in tetrahydrofuran (43 mL) was added 5 mol/L aqueous sodium hydroxide solution (5.76 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The extract was washed with 1 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in n-hexane (15 mL)-diisopropyl ether (5 mL) under reflux condition. The solution was cooled to room temperature, and n-hexane (25 mL) was added to the solution. The precipitated crystals were collected by filtration, and the crystals were washed with n-hexane and dried under reduced pressure to give the title compound (6.06 g).

reactant | 4-[(4-hydroxy-2-methylphenyl)-methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 8.58 g | OC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C40H60N2O11
reactant | 1-bromo-3-chloropropane | 2.85 mL | BrCCCCl | C3H6BrCl
reactant | sodium hydroxide | 5 mol/L, 5.76 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
catalyst | tetra(n-butyl)ammonium bromide | 1.86 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 43 mL | O1CCCC1 | C4H8O
product | 4-{[4-(3-Chloropropoxy)-2-methylphenyl]methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 6.06 g | ClCCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C43H65ClN2O11
